US05922754
Paclitaxel and many taxane analogs degrade in ethanolic solutions to which surfactants like Cremophor have been added. Typically, a shelf life of the formulation is analytically determined after storing the formulation at elevated temperatures for 40° C. over days or months. In the present case, the room temperature stability of the compositions of the invention was estimated by employing the following procedure. Five mL of the formulation was transferred to a 5 mL vials, each vial stoppered with a Teflon-coated stopper and then crimp sealed with aluminum crimps. The sealed vial was then heated either at 60° C. or more preferably at 70° C. for 16 to 24 hours and then cooled to room temperature. The resulting solution was diluted in a suitable diluting solvent and analyzed by high performance liquid chromatography (HPLC). As it is known that paclitaxel will degrade at high temperatures to form baccatin III and side ethyl ester due to the cleavage of the side chain at C-13, as well as other impurities like base-catalyzed epimerization of paclitaxel (e.g., 7-epitaxol), HPLC was used to determine the individual degradants and total of all degradants as a function of time and temperature. All reagents used for chromatography are HPLC grade. The HPLC system utilized a Thermoseparation P 4000 ternary solvent Pump, AS 3000 Autoinjector and Applied Biosystem 785A programmable wavelength detector in sequence with Fisons VG chromatography server data acquisition system connected to a computer containing Fison's Xchrom software for data integration. The analytical column used is Phenomenex, Curosil PFP, 5 micron 25 cm×4.6 mm ID column. A Curosil PFP, 30 mm×4.6 mm guard column is connected in series to the inlet side of the analytical column though a VICCI, Valco instruments automatic column switching device. The gradient mobile phase system consists of 40:60 acetonitrile: -0.1% phosphoric acid mobile phase A and 60:40 acetonitrile: 0.1% phosphoric acid mobile phase B. The gradient conditions between the two mobile phases are adjusted such that the late-eluting 7-epitaxol can be monitored. The guard column is flushed with 50:50 mixture of the above two mobile phases. The flow rate is 1.5 mL per minute through the analytical column, while the flow rate through the second pump used for clean up was maintained at 0.5 mL per minute. An injection volume of 20 microliters was employed. The eluting peaks were monitored at a wavelength of 227 nm. The method involves injection of the suitably diluted sample through the guard column connected to the analytical column. The mobile phase flows through the guard column and then through the analytical column. The mobile phase flow through the two columns in series is maintained for a suitable duration such that all the impurities move from the guard column to the analytical column. After this run time, the guard column connection to the analytical column is cut off and the mobile phase flow continues through the analytical column only. While chromatographic separation is accomplished in the analytical column, the guard column is flushed to remove surfactants via a flushing solution and another pump.

reactant | Paclitaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | taxane | C[C@@H]1CCC[C@@]2([C@@H]1C[C@@H]3CC[C@H]([C@@H](C3(C)C)CC2)C)C | C20H36
reactant | aluminum | [Al] | Al
product | baccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
